US06013663
Methyl [5-(1,2-dithiolan-3-yl)pentylamino]acetate (Compound No. 1-2584)
2 ml of methanol and 2 ml of butylamine were added to a solution of 1.6 mmol of 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione in 3 ml of toluene. The resulting mixture was allowed to stand overnight at room temperature. The solvent was then removed from the reaction mixture by distillation under reduced pressure. Water was added to the resulting residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. 4 ml of anhydrous tetrahydrofuran were added to the residue, and then 0.33 ml of triethylamine and 0.17 ml of methyl bromoacetate were added dropwise, whilst ice-cooling. The resulting mixture was stirred for one hour, whilst ice-cooling and then for 5 hours at room temperature. The reaction mixture was then allowes to stand at room temperature for 2 days. At the end of this time, the solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure, and the residue was subjected to silica gel column chromatography, using 1:0 and 20:1 by volume mixtures of ethyl acetate and methanol as eluent. The solvent was removed from the eluate so obtained by distillation under reduced pressure. The residue was dissolved in dioxane, after which it was lyophilised, to give 195 mg of the title compound as a yellow oil having an Rf value of 0.55 (silica gel thin layer chromatography; using a 4:1 by volume mixture of ethyl acetate and methanol as the developing solvent.

reactant | methanol | 2 ml | CO | CH4O
reactant | butylamine | 2 ml | C(CCC)N | C4H11N
reactant | 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione | 1.6 mmol | S1SC(CC1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C16H19NO2S2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl [5-(1,2-dithiolan-3-yl)pentylamino]acetate | 195 mg | S1SC(CC1)CCCCCNCC(=O)OC | C11H21NO2S2
